US05199450
(4R,5R)-Diethyl 2-(1-benzylideneheptyl)-1,3-dioxolane-4,5-dicarboxylate
A solution of α-hexylcinnamaldehyde (62.19 g, 0.288 mole), triethyl orthoformate (42.61 g, 0.288 mole), diethyl L-tartrate (51.5 g, 0.25 mole) in toluene (180 ml) containing p-toluene sulfonic acid (0.8 g) was refluxed for 1 hour. About 100 ml of ethanol-toluene mixture was distilled over a period of 2 hours, and after cooling the remaining solvent was removed on a rotary evaporator. The residue was dissolved in toluene (200 ml) and the solution was washed with aqueous NaHCO3 and then with water. The solution was dried over Na2SO4, and the solvent was evaporated under reduced pressure to provide a brown liquid (110.1 g).

reactant | α-hexylcinnamaldehyde | 0.288 mole, 62.19 g | C(CCCCC)C(C=O)=CC1=CC=CC=C1 | C15H20O
reactant | triethyl orthoformate | 0.288 mole, 42.61 g | C(OCC)(OCC)OCC | C7H16O3
reactant | diethyl L-tartrate | 0.25 mole, 51.5 g | C(=O)(OCC)[C@H](O)[C@@H](O)C(=O)OCC | C8H14O6
solvent | toluene | 180 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluene sulfonic acid | 0.8 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | (4R,5R)-Diethyl 2-(1-benzylideneheptyl)-1,3-dioxolane-4,5-dicarboxylate | 110.1 g, 91% yield | C(C1=CC=CC=C1)=C(CCCCCC)C1O[C@H]([C@@H](O1)C(=O)OCC)C(=O)OCC | C23H32O6
